US08012966B2
A stirred solution of 2-carboxymethyl-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (1.27 g, 6 mmol) in N,N-dimethylformamide (3 ml) and dichloromethane (30 ml) was added with 2-pyrrolidine-1-yl-ethamine (0.83 ml, 6.6 mmol), N-ethyl-N′-(dimethylaminopropyl)-carbodiimide hydrochloride (3 g, 12 mmol) and 1-hydroxybenzotriazol (0.9 g, 6 mmol) in the ice/water-bath. Upon completion of the addition, the reaction mixture was stirred at room temperature overnight, then added with cold water (20 ml), extracted with dichloromethane (50 ml×3). The combined organic extracts were washed with saturated sodium bicarbonate solution (50 ml), water (50 ml), brine (50 ml), dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 4-methyl-2-[(2-pyrrolidin-1-yl-ethylcarbamoyl)-methyl]-1H-pyrrole-3-carboxylic acid ethyl ester (1.898 g, 100%) as a brown oil which was used as such.

reactant | 2-carboxymethyl-4-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 6 mmol, 1.27 g | C(C)OC(=O)C1=C(NC=C1C)CC(=O)O | C10H13NO4
reactant | N-ethyl-N′-(dimethylaminopropyl)-carbodiimide hydrochloride | 12 mmol, 3 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazol | 6 mmol, 0.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-methyl-2-[(2-pyrrolidin-1-yl-ethylcarbamoyl)-methyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 1.898 g, 100% | C(C)OC(=O)C1=C(NC=C1C)CC(NCCN1CCCC1)=O | C16H25N3O3
